8
R0102 1 2 10000
M0304 3 4 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0104 1 4 0 0 NMOS L=1E-6 W=100E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0506 5 6 3 0 NMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0702 7 2 3 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0505 5 5 8 8 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0705 7 5 8 8 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0107 1 7 8 8 PMOS L=1E-6 W=200E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
V0400 4 0 0 0 1.5
V0600 6 0 1 0 2.5
V0200 2 0 0 0 2.5
V0800 8 0 0 0 5
.AC DEC 100 1 100E9
